US08008295B2
(±)-5-Bromo-3-{[methyl(tetrahydrofuran-3-yl)amino]sulfonyl}-1H-indole-2-carboxamide
Following the procedures described in Steps D and E of Example 1, replacing in Step D ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and methylamine hydrochloride with (±)-N-methyl-N-tetrahydrofuran-3-ylamine, the title compound was obtained.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13BrClNO6S2
reactant | methylamine hydrochloride | Cl.CN
reactant | (±)-N-methyl-N-tetrahydrofuran-3-ylamine | CNC1COCC1 | C5H11NO
product | (±)-5-Bromo-3-{[methyl(tetrahydrofuran-3-yl)amino]sulfonyl}-1H-indole-2-carboxamide | BrC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N(C1COCC1)C | C14H16BrN3O4S
